US07893063B2
4-(5-hydroxymethylthien-2-yl)-6-morpholino-2-(3-piperidin-4-ylcarbonylaminophenyl)pyrimidine
A mixture of 2-[3-(1-tert-butoxycarbonylpiperidin-4-ylcarbonylamino)phenyl]-4-chloro-6-morpholinopyrimidine (0.054 g), 5-hydroxymethylthien-2-ylboronic acid (0.021 g), caesium fluoride (0.046 g), a [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) 1:1 complex with methylene chloride (3 mg), and methanol (2 ml) was stirred and heated to 120° C. using microwave radiation for 20 minutes under an atmosphere of nitrogen in a sealed glass tube. The resultant reaction mixture was evaporated and the residue was partitioned between methylene chloride and water. The organic solution was dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using an increasingly polar gradient of 0% to 5% methanol in methylene chloride as eluent. There was thus obtained 2-[3-(N-tert-butoxycarbonylpiperidin-4-ylcarbonylamino)phenyl]-4-(5-hydroxymethylthien-2-yl)-6-morpholinopyrimidine as a gum. Trifluoroacetic acid (2 ml) was added to the material so obtained and the mixture was stirred at ambient temperature for 30 minutes. The mixture was evaporated and the residue was purified by HPLC using a Waters ‘Xterra’ preparative reversed-phase column (5 microns silica, 19 mm diameter, 100 mm length) using decreasingly polar mixtures of water (containing 1% of a concentrated (d=0.88) aqueous ammonium hydroxide solution) and acetonitrile as eluent. There was thus obtained the title compound as a solid (0.015 g); NMR Spectrum: (DMSO-d6) 1.55-1.66 (m, 2H), 3.04 (d, 2H), 3.77 (d, 8H), 4.69 (d, 2H), 5.57 (t, 1H), 7.05 (d, 1H), 7.19 (s, 1H), 7.4 (t, 1H), 7.9-7.95 (m, 2H), 8.07 (d, 1H), 8.48 (s, 1H), 10.01 (s, 1H); Mass Spectrum: M+H+480.

reactant | 2-[3-(1-tert-butoxycarbonylpiperidin-4-ylcarbonylamino)phenyl]-4-chloro-6-morpholinopyrimidine | 0.054 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NC=1C=C(C=CC1)C1=NC(=CC(=N1)Cl)N1CCOCC1 | C25H32ClN5O4
reactant | 5-hydroxymethylthien-2-ylboronic acid | 0.021 g | OCC1=CC=C(S1)B(O)O | C5H7BO3S
reactant | caesium fluoride | 0.046 g | [F-].[Cs+]
reactant | methylene chloride | 3 mg | C(Cl)Cl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | methanol | 2 ml | CO | CH4O
product | 4-(5-hydroxymethylthien-2-yl)-6-morpholino-2-(3-piperidin-4-ylcarbonylaminophenyl)pyrimidine | 0.015 g | OCC1=CC=C(S1)C1=NC(=NC(=C1)N1CCOCC1)C1=CC(=CC=C1)NC(=O)C1CCNCC1 | C25H29N5O3S
